US03988476
b. 4Isopropyloxy-2-nitro-indane-1,3-dione
4-Isopropyloxy indane-1,3-dione (0.16 g; 0.003 mole) suspended in dry ether (5 ml) was treated dropwise and with stirring with fuming nitric acid (1.0 ml) at 10° C. The resulting dark solution was treated with 5N hydrochloric acid and evaporated to a yellow crystalline product; m.p. (water, hydrochloric acid) 80°-81° C. (Found: C, 57.94; H, 4.43; N, 5.46; C12H11NO5 requires: C, 57.83; H, 4.45; N, 5.62%).

reactant | 4-Isopropyloxy indane-1,3-dione | 0.003 mole, 0.16 g | C(C)(C)OC1=C2C(CC(C2=CC=C1)=O)=O | C12H12O3
reactant | nitric acid | 1.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | ether | 5 ml | CCOCC | C4H10O
product | 4Isopropyloxy-2-nitro-indane-1,3-dione | C(C)(C)OC1=C2C(C(C(C2=CC=C1)=O)[N+](=O)[O-])=O | C12H11NO5
